US08835431B2
a. 3-(5-Amino-3-tert-butyl-pyrazol-1-yl)-propan-1-ol (Intermediate 35a)
A solution of 4,4-dimethyl-3-oxo-pentanenitrile (0.7 g, 5.58 mmol) in ethanol (IMS grade, 5 mL) was treated with 3-hydrazino-propan-1-ol dihydrochloride (1 g, 6.13 mmol), followed by cone. HCl (0.05 mL), and the reaction mixture was heated at reflux for 18 h. The mixture was concentrated in vacuo and the residue was purified by FCC, using 0-10% [2M NH3 in MeOH] in DCM to afford the title compound as a white gummy solid (0.94 g, 85%). LCMS (Method 3): Rt 0.42 min, m/z 198 [MH+].

reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 5.58 mmol, 0.7 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 3-hydrazino-propan-1-ol dihydrochloride | 6.13 mmol, 1 g | Cl.Cl.N(N)CCCO
reactant | HCl | 0.05 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(5-Amino-3-tert-butyl-pyrazol-1-yl)-propan-1-ol | 0.94 g, 85% | NC1=CC(=NN1CCCO)C(C)(C)C | C10H19N3O
